US07214835B2
Pyridine (10 ml) was added slowly and dropwise to a dichloromethane (60 ml) solution of 1,7,8-trifluoro-2-naphthol (10 g) and trifluoromethanesulfonic acid anhydrate (10.3 ml) at the temperature of the ice/water, and then the reaction solution was stirred for 30 minutes. Water and dichloromethane were added slowly in the reaction solution. The organic layer was removed, and the aqueous layer was extracted with dichloromethane. The organic layers were combined, washed with water, 10% hydrochloric acid, a saturated sodium hydroxide aqueous solution, water, and brine consecutively, and concentrated. The residue was purified by column chromatography (silica gel, hexane/ethyl acetate=19/1), and 1,7,8-trifluoronaphthalene-2-yl trifluoromethanesulfonate was obtained as light yellow crystals.

reactant | Pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,7,8-trifluoro-2-naphthol | 10 g | FC1=C(C=CC2=CC=C(C(=C12)F)F)O | C10H5F3O
reactant | trifluoromethanesulfonic acid | 10.3 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 1,7,8-trifluoronaphthalene-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C2=C(C(=CC=C2C=C1)F)F)F)(F)F | C11H4F6O3S
